US05500429
1-(3-Trifluoromethylphenyl)-3-(4-pyridinyl)-2-propene-1-one
Dissolve anhydrous cobalt(II) acetate (700 mg, 4 mmol) in dimethylformamide. Add 2,2'-dipyridyl (620 mg, 4 mmol) and stir for 30 minutes. Add 3-(trifluoromethyl)acetophenone (9.4 g, 50 mmol) and 4-pyridinecarboxaldehyde (5.3 g, 50 mmol). Heat at 80° C. for 18 hours. Evaporate the solvent and purify the residue by silica gel chromatography (1:1 toluene/ethyl acetate) to yield 9.4 g. Recrystallize (ethyl ether/hexane) to yield the title compound; mp 89°-90° C.

reactant | 3-(trifluoromethyl)acetophenone | 50 mmol, 9.4 g | CC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H7F3O
reactant | 4-pyridinecarboxaldehyde | 50 mmol, 5.3 g | N1=CC=C(C=C1)C=O | C6H5NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | cobalt(II) acetate | 4 mmol, 700 mg | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
product | 1-(3-Trifluoromethylphenyl)-3-(4-pyridinyl)-2-propene-1-one | FC(C=1C=C(C=CC1)C(C=CC1=CC=NC=C1)=O)(F)F | C15H10F3NO
